US08466186B2
(b) N-(3-Nitro-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide
Nitronium tetrafluoroborate (3.97 g, 29.9 mmol) was added in portions over 5 min to N-(4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide (4.1 g, 15 mmol) in MeNO2 (35 mL) and the mixture was stirred at rt for 1 h. The mixture was treated with ice and Et2O was added. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was treated with PE and the sub-title compound was filtered off.

reactant | Nitronium tetrafluoroborate | 29.9 mmol, 3.97 g | F[B-](F)(F)F.O=[N+]=O
reactant | N-(4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | 15 mmol, 4.1 g | FC(OC1=CC=C(CNC(C(C)(C)C)=O)C=C1)(F)F | C13H16F3NO2
reactant | Et2O | CCOCC | C4H10O
solvent | MeNO2 | 35 mL | C[N+](=O)[O-] | CH3NO2
product | N-(3-Nitro-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | [N+](=O)([O-])C=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C13H15F3N2O4
